### PR TITLE
activate_thread: proofs for corres lemma and invs' lemma.

### PR DESCRIPTION
**Pull request by MitchellBuckley**
This solves `activateThread_invs'` and `activateThread_corres` but requires a number of small spec-changes:
* haskell for activateThread was slightly out-of-date
* Update ipc buffer handling: the code now does a lookup before invocation decoding and is passed all the way down.
* Fix ordering of commands for inlining of cancel_yield_to into complete_yield_to.

### CODE REVIEW

File: spec/abstract/Decode_A.thy [hunk 1]
```diff
@@ -486,13 +486,15 @@ section "Scheduling Contexts"
 text \<open>The following definitions decode system calls related to scheduling contexts
 and scheduling control.\<close>
 
+find_consts "_ list \<Rightarrow> _ option"
```
Comment (MitchellBuckley) [inline spec/abstract/Decode_A.thy:489]: delete these

File: spec/abstract/SchedContext_A.thy [hunk 2]
```diff
@@ -309,34 +309,40 @@ definition
...
-  set_consumed :: "obj_ref \<Rightarrow> data list \<Rightarrow> (unit, 'z::state_ext) s_monad"
+  set_consumed :: "obj_ref \<Rightarrow> data option \<Rightarrow> (unit, 'z::state_ext) s_monad"
 where
-  "set_consumed sc_ptr args \<equiv>do
+  "set_consumed sc_ptr buf \<equiv> do
       consumed \<leftarrow> sched_context_update_consumed sc_ptr;
       ct \<leftarrow> gets cur_thread;
-      buffer \<leftarrow> return $ data_to_oref $ args ! 0;
-      sent \<leftarrow> set_mrs ct (Some buffer) ((ucast consumed) # [ucast (consumed >> 32)]);
+      sent \<leftarrow> set_mrs ct (map_option data_to_oref buf) ((ucast consumed) # [ucast (consumed >> 32)]);
```
Comment (MitchellBuckley) [inline spec/abstract/SchedContext_A.thy:330]: does this need to be here? I'm not sure if data should have been oref the whole time.

File: spec/machine/ARM/MachineOps.thy [hunk 3]
```diff
@@ -144,6 +144,9 @@ and
 axiomatization
   ticks_to_us :: "64 word \<Rightarrow> 64 word"
 
+axiomatization
+  max_ticks_to_us :: "64 word"
```
Comment (MitchellBuckley) [inline spec/machine/ARM/MachineOps.thy:148]: Is this necessary? I suspect that `max_ticks_to_us` already existed.

File: proof/refine/ARM/Tcb_R.thy [hunk 4]
```diff
@@ -24,47 +24,236 @@ lemma activate_idle_thread_corres:
...
+ "corres (=) \<top> \<top>
+            (sched_context_update_consumed scp)
+            (schedContextUpdateConsumed scp)"
+  unfolding sched_context_update_consumed_def schedContextUpdateConsumed_def
+  apply (simp add: maxTicksToUs_def ticksToUs_def)
+  apply (rule corres_guard_imp)
+    apply (rule corres_split [OF _ get_sc_corres])
+      apply (rule corres_if)
+        apply (clarsimp simp: maxTicksToUs_def sc_relation_def)
+  sorry
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Tcb_R.thy:119]: do not introduce new sorries!

File: proof/refine/ARM/Tcb_R.thy [hunk 5]
```diff
@@ -24,47 +24,262 @@ lemma activate_idle_thread_corres:
...
+        apply wpsimp+
+      apply (rule corres_split[OF corres_return_eq_same scConsumed_update_corres],
+             clarsimp simp: sc_relation_def)
+        apply wpsimp+
+  done
+
+crunches sched_context_update_consumed
+  for in_user_frame[wp]: "in_user_frame x"
+
+lemma fhhfhf[wp]:
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Tcb_R.thy:148]: rename

File: proof/refine/ARM/Tcb_R.thy [hunk 6]
```diff
@@ -24,47 +24,262 @@ lemma activate_idle_thread_corres:
...
+  "schedContextUpdateConsumed scp \<lbrace>\<lambda>s. tcb_at' (ksCurThread s) s\<rbrace>"
+  unfolding schedContextUpdateConsumed_def
+  by (wpsimp | wps)+
+
+lemma fffhhfhf[wp]:
+  "schedContextUpdateConsumed scp \<lbrace>valid_ipc_buffer_ptr' x\<rbrace>"
+  unfolding schedContextUpdateConsumed_def valid_ipc_buffer_ptr'_def
+  by wpsimp
+
+(* this trivial lemma is used to resolve schematic variables in the case that we want
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Tcb_R.thy:158]: I would like to remove this if possible, but not sure of the best way to remove it.

File: proof/refine/ARM/Tcb_R.thy [hunk 7]
```diff
@@ -3164,3 +3340,4 @@ lemma inv_tcb_IRQInactive:
 end
 
 end
+
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Tcb_R.thy:3343]: remove extra newline

**Review by mbrcknl — APPROVED** [review]
Looks good!

File: spec/abstract/SchedContext_A.thy [hunk 8]
```diff
@@ -309,34 +309,40 @@ definition
   sched_context_update_consumed :: "obj_ref \<Rightarrow> (time,'z::state_ext) s_monad" where
   "sched_context_update_consumed sc_ptr \<equiv> do
     sc \<leftarrow> get_sched_context sc_ptr;
-    set_sc_obj_ref sc_consumed_update sc_ptr 0;
-    return (sc_consumed sc)
+    consumed <- return (sc_consumed sc);
```
Comment (michaelmcinerney) [inline spec/abstract/SchedContext_A.thy:312]: I updated the spec for `sched_context_update_consumed` in my "smaller ipc sorries" PR. I'm definitely happy for you to go first if you'd like, but there is one change that Curtis has made to the C which needs to be included. We need to add `ticks_to_us` before `max_ticks_to_us` in the "then" branch. The C change is part of Curtis's PR #1813 on the SEL4 Bitbucket

File: proof/invariant-abstract/KHeap_AI.thy [hunk 9]
```diff
@@ -2441,8 +2441,9 @@ lemma set_tcb_obj_ref_obj_at_trivial:
   by (wpsimp wp: set_tcb_obj_ref_wp simp: obj_at_def)
 
 lemma sched_context_update_consumed_obj_at_trivial:
-  "\<lbrace>obj_at P t' and
-    K (\<forall>sc n. P (SchedContext sc n) \<longrightarrow> P (SchedContext (sc_consumed_update (K 0) sc) n))\<rbrace>
+  "\<lbrace>obj_at P t'
```
Comment (michaelmcinerney) [inline proof/invariant-abstract/KHeap_AI.thy:2444]: I found in my PR that if you add a "forall f" as well, then you can have an arbitrary f to update the consumed time and everything goes through just fine

File: proof/refine/ARM/Tcb_R.thy [hunk 10]
```diff
@@ -24,47 +24,262 @@ lemma activate_idle_thread_corres:
...
+lemma gts_st_tcb':
+  "\<lbrace>tcb_at' t\<rbrace> getThreadState t \<lbrace>\<lambda>rv. st_tcb_at' (\<lambda>st. st = rv) t\<rbrace>"
+  apply (rule hoare_vcg_precond_imp)
+   apply (rule hoare_post_imp[where Q="\<lambda>rv s. \<exists>rv'. rv = rv' \<and> st_tcb_at' (\<lambda>st. st = rv') t s"])
+    apply simp
+   apply (wp hoare_ex_wp)
+  apply (clarsimp simp add: pred_tcb_at'_def obj_at'_def)
+  done
+
+lemma activateIdle_invs:
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Tcb_R.thy:36]: `invs'` instead? (Though the consistency with this is currently quite poor in Refine)

File: proof/refine/ARM/Tcb_R.thy [hunk 11]
```diff
@@ -24,47 +24,262 @@ lemma activate_idle_thread_corres:
...
+  "activateIdleThread thread \<lbrace>invs'\<rbrace>"
+  by (simp add: activateIdleThread_def)
+
+lemma invs'_live_sc'_ex_nonz_cap_to':
+  "ko_at' ko scp s \<Longrightarrow> invs' s \<Longrightarrow> live_sc' ko \<longrightarrow> ex_nonz_cap_to' scp s"
+  apply (clarsimp simp: invs'_def valid_state'_def if_live_then_nonz_cap'_def)
+  by (fastforce simp: obj_at'_real_def ko_wp_at'_def projectKO_sc)
+
+lemma invs'_ko_at_valid_sc:
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Tcb_R.thy:45]: I'm much rather use `invs_valid_objs'` and then use the existing rule `sc_ko_at_valid_objs_valid_sc'`

File: proof/refine/ARM/Tcb_R.thy [hunk 12]
```diff
@@ -24,47 +24,262 @@ lemma activate_idle_thread_corres:
...
+  by (wpsimp wp: schedContextUpdateConsumed_invs'
+      | strengthen tcb_at_invs')+
+
+crunches setConsumed
+  for ksSchedulerAction[wp]: "\<lambda>s. P (ksSchedulerAction s)"
+  and tcb_at'[wp]: "\<lambda>s. Q (tcb_at' t s)"
+
+lemma schedContextCompleteYieldTo_invs':
+  "\<lbrace>invs' and sch_act_simple and tcb_at' thread\<rbrace>
+     schedContextCompleteYieldTo thread
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Tcb_R.thy:76]: Indentation

File: proof/refine/ARM/Tcb_R.thy [hunk 13]
```diff
@@ -24,47 +24,262 @@ lemma activate_idle_thread_corres:
...
+  by (clarsimp simp: invs'_def valid_state'_def valid_idle'_def pred_tcb_at'_def obj_at'_def
+                     idle_tcb'_def)
+
+(* FIXME RT: move *)
+lemma maybeM_when:
+  "maybeM f x = when (x \<noteq> None) (f (the x))"
+  unfolding maybeM_def
+  by (clarsimp split: option.splits)
+
+lemma corres_assert_opt_assume_l'':
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Tcb_R.thy:104]: Move to Corres_UL?

File: proof/refine/ARM/Tcb_R.thy [hunk 14]
```diff
@@ -24,47 +24,262 @@ lemma activate_idle_thread_corres:
...
+        apply (case_tac obj; simp add: is_sc_obj_def)
+        apply (rule setSchedContext_no_stack_update_corres[where f'="scConsumed_update (\<lambda>_. y)"])
+           apply (clarsimp simp: sc_relation_def objBits_def objBitsKO_def obj_at_def)+
+     apply (fastforce simp: exs_valid_def get_object_def in_monad obj_at_def)
+    apply (wpsimp wp: get_object_wp)
+   apply (fastforce simp: obj_at_def)
+  apply simp
+  done
+
+lemma schedContextUpdateConsumed_corres:
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Tcb_R.thy:128]: I proved this too in my PR, but your is much much nicer!

File: proof/refine/ARM/Tcb_R.thy [hunk 15]
```diff
@@ -24,47 +24,262 @@ lemma activate_idle_thread_corres:
...
+  apply (rule corres_guard_imp)
+    apply (rule corres_split [OF _ get_tcb_yield_to_corres], simp)
+      apply (rule corres_when2[OF refl])
+      apply (clarsimp, wpfix)
+      apply (rule corres_split[OF _ lipcb_corres], simp)
+        apply (rule corres_split[OF _ setConsumed_corres])
+          apply (clarsimp simp: schedContextCancelYieldTo_def)
+          apply (rule corres_symb_exec_r'[where Q'=\<top>])
+             apply (rule_tac F="scPtrOpt = Some y" in corres_gen_asm2)
+             apply (simp)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Tcb_R.thy:204]: Brackets

**Review by michaelmcinerney — APPROVED** [review]
Love it!

File: proof/refine/ARM/Tcb_R.thy [hunk 16]
```diff
@@ -24,47 +24,262 @@ lemma activate_idle_thread_corres:
...
+  by (clarsimp split: option.splits)
+
+lemma corres_assert_opt_assume_l'':
+  "corres_underlying sr nf nf' r P Q (f (the X)) g
+  \<Longrightarrow> corres_underlying sr nf nf' r (P and K (X \<noteq> None)) Q (assert_opt X >>= f) g"
+  by (force simp: corres_underlying_def assert_opt_def return_def bind_def fail_def)
+
+lemma scConsumed_update_corres:
+ "x = y \<Longrightarrow>
+  corres dc (sc_at scp) (ko_at' sc scp)
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Tcb_R.thy:111]: Maybe investigate using `sc_at_cross` to remove the concrete guard? It'll need `pspace_aligned` and `pspace_distinct` but that's probably fine

File: spec/abstract/SchedContext_A.thy (hunk 8 above)
Comment (MitchellBuckley) [reply spec/abstract/SchedContext_A.thy]: Sounds good :)

File: proof/invariant-abstract/KHeap_AI.thy (hunk 9 above)
Comment (MitchellBuckley) [reply proof/invariant-abstract/KHeap_AI.thy]: Awesome!

File: proof/refine/ARM/Tcb_R.thy (hunk 16 above)
Comment (MitchellBuckley) [reply proof/refine/ARM/Tcb_R.thy:97]: I think in this case we do need the explicit `ko_at` precondition.

File: spec/machine/MachineExports.thy [hunk 17]
```diff
@@ -58,6 +58,7 @@ requalify_consts
   max_ticks_to_us
   us_to_ticks
   ticks_to_us
+  max_ticks_to_us
```
Comment (MitchellBuckley) [inline spec/machine/MachineExports.thy:61]: Remove this.

File: spec/abstract/Decode_A.thy [hunk 18]
```diff
@@ -755,9 +757,9 @@ invocation is allowed.
 definition
   decode_invocation ::
   "bool \<Rightarrow> data \<Rightarrow> data list \<Rightarrow> cap_ref \<Rightarrow> cslot_ptr \<Rightarrow> cap \<Rightarrow>
-   (cap \<times> cslot_ptr) list \<Rightarrow> (invocation, 'z::state_ext) se_monad"
+   (cap \<times> cslot_ptr) list \<Rightarrow> obj_ref option \<Rightarrow> (invocation, 'z::state_ext) se_monad"
 where
-  "decode_invocation first_phase label args cap_index slot cap excaps \<equiv>
+  "decode_invocation first_phase label args cap_index slot cap excaps buffer \<equiv>
```
Comment (mktnk3) [inline spec/abstract/Decode_A.thy:762]: Hmm. I am not sure where this change is coming from. Isn’t this `buffer` just the same thing as the third argument `args`?

Comment (mktnk3) [reply spec/abstract/Decode_A.thy:762]: In other parts of the spec update it appears that `buffer` is replacing `args` but here this function still takes both. Is this how it’s supposed to be?

Comment (MitchellBuckley) [reply spec/abstract/Decode_A.thy:762]: Not unless there's something tricky going on. See args and buffer in `handle_invocation`
https://github.com/seL4/l4v/blob/rt/spec/abstract/Syscall_A.thy#L231

Comment (MitchellBuckley) [reply spec/abstract/Decode_A.thy:762]: See also in the source where buffer is passed through.
https://github.com/seL4/seL4/blob/master/src/api/syscall.c#L416

Comment (mktnk3) [reply spec/abstract/Decode_A.thy:762]: Another question is if this is MCS specific or not, or, how this goes along with the case of master, as in, the argument `buffer` appears in the master version as well. How is this handled?

Comment (mktnk3) [reply spec/abstract/Decode_A.thy:762]: in `handle_invocation`, `args` are read out of `buffer`. I don’t see why we need to pass both `args` and `buffer` to `decode_invocation`.

Comment (MitchellBuckley) [reply spec/abstract/Decode_A.thy:762]: I've asked Matt to have a look. I don't know this is supposed to work.

Comment (mbrcknl) [reply spec/abstract/Decode_A.thy:762]: Yes, I believe MCS does something new here. In particular, before MCS, there were no invocations other than endpoint IPC that needed to *write* to the IPC buffer. Pre-MCS invocation decodes only need to read the syscall args out of the IPC buffer. That meant that in the spec, we could read syscall args early in the decode, and pass those through to the more specific decode functions instead of the buffer. Endpoint IPC operations were special, in that they did (and still do) their own IPC buffer lookups, so we didn't need to pass the buffer through to endpoint IPC operations. The C doesn't have a nice way to pass a list of syscall args through, so the C passes the `buffer` pointer, and individual decode operations use it to call `getSyscallArgs`. In pre-MCS, I think this is all the `buffer` argument gets used for, so for that purpose it's equivalent to the spec-level `args` parameter.

Now, MCS has two new invocations that need to record consumed time in the IPC buffer. So now the (read-only) `args` are not enough. Those new invocations really need the `buffer` pointer. In the C, these invocations use the `buffer` pointer that was passed in.

So what do we do in the spec? I can see these options:
1. Do a second IPC buffer lookup in the invocation specs. But then in CRefine, we'd have to prove that this second lookup gives the same result as the first one in `handleInvocation`. That would be an annoying proof, and I think it would be confusing that the spec performs a lookup while the C doesn't.
2. Pass the `buffer` pointer through to all the invocations, and remove the `args` parameter from all the existing invocations, since we can get the `args` from the `buffer`. This would make the spec look like the C, but it would be a ton of rework for no particular benefit. Actually, I think it would make the spec worse, since it's no longer clear that for most invocations, all you need are the `args`. And the spec would no longer have a nicely factored out syscall args lookup.
3. Pass the `buffer` through only to the new invocations that need to write to it, and remove the `args` from those invocations only. This is a bit more reasonable that 2, but I think it's still annoying to have the syscall args lookup factored out for most invocations, but not for these two.
4. Pass the `buffer` and the `args` through to the new invocations, and leave everything else alone. This is what @MitchellBuckley has done. Although the `args` are redundant, I still think it's the nicest of these 4 options.

Comment (mktnk3) [reply spec/abstract/Decode_A.thy:762]: Ok, thanks, Matt. I see. With this explanation, I do agree that 4 (what we have here) seems to be the best option for us. It will give us easier time merging with the master as well.

Comment (mktnk3) [reply spec/abstract/Decode_A.thy:762]: > MCS has two new invocations that need to record consumed time in the IPC buffer, which need the IPC buffer pointer
>  the `buffer` and the `args` through to the invocations, although the `args` are redundant

Mitch, can you please update the commit message to something a bit more explanatory and include something like the above? Also maybe list what those invocations are?

Comment (mktnk3) [reply spec/abstract/Decode_A.thy:762]: when you clean up later

Comment (MitchellBuckley) [reply spec/abstract/Decode_A.thy:762]: Ok, can do.

Comment (mbrcknl) [reply spec/abstract/Decode_A.thy:762]: Here's my suggestion for a commit message for the relevant commit:

```
rt aspec: correct IPC buffer pointer for sched context invocations

In the MCS kernel, two of the invocations on scheduling context
capabilities (consumed and yield-to) need to write the consumed time to
the current thread's IPC buffer.

Prior to this commit, ASpec was mistakenly using the first syscall
argument as the IPC buffer pointer for those invocations.

In this commit, we provide the correct IPC buffer pointer to those
invocations, by adding an extra `buffer` argument to the relevant
invocation decode functions. The IPC buffer pointer is obtained from the
existing call to `lookup_ipc_buffer` in `handle_invocation`. Syscall
arguments are dropped from decoding functions that no longer need them.

This change highlights differences between the pre-MCS and MCS kernels.
In the pre-MCS abstract specification, the only invocation that might
need to write to an IPC buffer is a IPC send on an endpoint. Endpoint
IPC performs its own IPC buffer lookup in `do_normal_transfer`. For all
other invocations, the IPC buffer was only needed for reading syscall
arguments. In the abstract specification, the syscall argument decoding
was therefore performed early in `handle_invocation`, and the syscall
args rather than the buffer were passed to the more specific decode
functions.

Now that MCS requires the IPC buffer pointer for some invocations, we
pass *both* the IPC buffer pointer and the syscall arguments to a small
number of the invocation decode functions, even though the syscall
arguments could be obtained from the IPC buffer. This allows us to keep
performing the syscall argument decoding early in `handle_invocation`,
and to maintain compatibility with existing proofs.

Note that in the C kernel, the IPC buffer pointer is always passed to
individual invocation decoding functions, and syscall arguments are only
decoded when they are needed.
```

**Review by mktnk3 — APPROVED** [review]
Thanks a lot for pushing these changes through, Mitch and Matt.
